US05719141
n) 3-Tert-butoxycarbonyl-2,2-dimethyl-4(S)-[[(1-benzyloxymethyl)cyclopropyl]methyl]-1,3-oxazolidine
A mixture of 31.4 g of 1-benzyloxymethyl-1-[2(S)-tert-butoxycarbonylamino-3-hydroxy-propan-1-yl]cyclopropane, 80 ml of 2-methoxypropene and 0.5 g of p-toluenesulfonic acid hydrate in 170 ml of methylene chloride is stirred at room temperature for 16 h. The mixture is concentrated and the residue is purified by means of FC over 900 g of silica gel (mobile phase G): Rf (G)=0.23.

reactant | 1-benzyloxymethyl-1-[2(S)-tert-butoxycarbonylamino-3-hydroxy-propan-1-yl]cyclopropane | 31.4 g | C(C1=CC=CC=C1)OCC1(CC1)C[C@@H](CO)NC(=O)OC(C)(C)C | C19H29NO4
reactant | 2-methoxypropene | 80 ml | COC(=C)C | C4H8O
reactant | p-toluenesulfonic acid hydrate | 0.5 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methylene chloride | 170 ml | C(Cl)Cl | CH2Cl2
product | 3-Tert-butoxycarbonyl-2,2-dimethyl-4(S)-[[(1-benzyloxymethyl)cyclopropyl]methyl]-1,3-oxazolidine | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CC1(CC1)COCC1=CC=CC=C1)(C)C | C22H33NO4
